2160-09-13 06:24:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 9586**] is a 87 year old gentleman with a PMH
   significant for afib with RVR, HTN, GERD, DM 2, CVA admitted on [**2160-9-11**]
   from [**Hospital1 747**] for orthostatic hypotension, dizziness and emesis found to
   have UGIB, developed afib with RVR on flood with worsening dyspnea and
   transferred to MICU.
   24 Hour Events:
   Rate controlled throughout night without issues
   Relatively hypotensive for HTN baseline
   O2 saturations stable  - 4-5L NC
 EKG - At [**2160-9-12**] 04:27 PM
 NASAL SWAB - At [**2160-9-12**] 04:27 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-12**] 05:43 PM
   Cefipime - [**2160-9-12**] 10:06 PM
   Metronidazole - [**2160-9-13**] 12:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-9-12**] 05:30 PM
   Pantoprazole (Protonix) - [**2160-9-12**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-13**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 94 (88 - 122) bpm
   BP: 104/48(62) {87/42(56) - 119/71(76)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    441 mL
                                                                    159 mL
   PO:
             TF:
   IVF:
                                                                    441 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    170 mL
   Urine:
                                                                  1,480 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,039 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   Neuro: appropriate, alert
   CV: rrr, without rubs, gallops, murmurs, no JVD appreciated
   Resp: clear to auscultation anterior exam
   Abd: soft, nontender, mild distention, + BS
   Ext: warm, without edema, 2+ pulses
   Labs / Radiology
   145 K/uL
   11.6 g/dL
   148 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   102 mEq/L
   141 mEq/L
   34.2 %
   11.4 K/uL
        [image002.jpg]
                             [**2160-9-12**]  02:55 PM
                             [**2160-9-13**]  03:49 AM
   WBC
   17.7
   11.4
   Hct
   37.5
   34.2
   Plt
   139
   145
   Cr
   0.9
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   154
   148
   Other labs: PT / PTT / INR:12.2/26.9/1.0, CK / CKMB /
   Troponin-T:90/4/<0.01, Differential-Neuts:86.9 %, Lymph:8.2 %, Mono:4.6
   %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Imaging: [**9-12**] PM pro-BNP 1627
   [**9-12**] AM pro-BNP 590
   [**9-12**] AM d-dimer 2035
   Microbiology: Urine cx pending
   Assessment and Plan
   Mr. [**Known lastname 9586**] is a 87 year old gentleman with a PMH significant for afib
   with RVR, HTN, GERD, DM 2, CVA admitted on [**2160-9-11**] from [**Hospital1 747**] for
   orthostatic hypotension, dizziness and emesis, likely source is GIB
   subsequently developed afib with rvr, dyspnea and relative hypotension
   and was transferred to the MICU.
   .
   # Hypoxia: Patient with new O2 requirement with ABG 7.42/47/75 on 6L nc
   and 40% shovel mask.  Differential for hypoxia with A-A gradient
   includes volume overload/pulmonary edema in setting of afib with RVR,
   dCHF, ACS, or aspiration pneumonitis versus pneumonia (diffusion), V/Q
   mismatch in setting of increased abdominal distention, and shunt from
   PE.  CXR with some cephalization although without excessive pulmonary
   edema. Patient was diuresed with improvement of oxygen status. He was
   also rate contolled. Pro-BNP was acutely elevated suggesting stretch
   and fluid overload.
   -Rule out ACS with serial cardiac biomarkers and repeat ECG - thus far
   negative
   -Repeat TTE
   -Diurese as tolerated
   -Repeat CXR
   -HR control with diltiazem PO and IV prn, goal HR 80-100
   -Continue cefepime, vanco, flagyl for health-care associated/aspiration
   pneumonia.  Will also check a sputum culture and plan to discontinue
   antimicrobial therapy in culture NGTD at 48 hours.
   -Can consider NPPV if necessary. Patient is DNR/DNI.
   -Defer CTA to rule out PE for now given contrast load yesterday for
   CTAP, although PE is a possibility with new O2 requirement and afib
   with RVR. However, unlikely to anticoagulate even if PE due to GIB.
   .
   # Hematemesis: Likely secondary to erosive esophagitis. Hct currently
   stable, although stools have been OB brown positive.
   - Hct Q12H, transfuse for hct <21, active hemorrhage, or end organ
   damage.
   - Maintain active T+S
   - Continue PPI [**Hospital1 7**]
   - Follow-up GI recs if any.
   .
   # Atrial fibrillation: Patient with history of AF that converted to
   sinus sponatenously in [**9-30**].  Currently with new afib with RVR
   -Rate control with diltiazem
   .
   # CV: TTE in [**7-1**] with LVEF<55% with LVH and dCHF.  Patient currently
   without chest pain.
   - Rule out ACS as above
   - Continue simvastatin
   - Hold aggrenox given GIB
   - Check BNP
   .
   # CVA: Hold aggrenox given GIB.
   .
   # Abdominal Distention: Initially concerning for SBO, although CTAP
   negative. Patient was also evaluated by surgery in the ED with low
   suspicion for SBO.
   - Aggressive bowel regimen
   .
   # Leukocytosis: WBCs 16.7 with left shift. Differential includes
   reactive leukocytosis in setting of GIB versus or aspiration event.
   - Trend fever curve and WBC.
   - Antimicrobial therapy as above.
   .
   # DM 2: Continue ISS, hold metformin while inpatient.
   .
   FEN: Clears - ADAT. Replete as necessary
   PPx: SCDs
   Access: PIV x2
   Code: DNR/DNI (form in chart)
   Communication: patient's daughter [**Name (NI) 96**] cell phone number ([**Telephone/Fax (1) 9587**]
   Dispo:
   ICU Care
   Nutrition:
   Comments: Sips, cardiac/renal healthy, advance as tolerated to regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2160-9-12**] 03:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2160-09-13 10:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains dyspneic this AM, and remains with oxygen requiement.
   Describes nausea.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-12**] 05:43 PM
   Cefipime - [**2160-9-12**] 10:06 PM
   Metronidazole - [**2160-9-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-9-12**] 08:19 PM
   Furosemide (Lasix) - [**2160-9-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-9-13**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 88 (80 - 122) bpm
   BP: 117/54(71) {87/42(56) - 119/71(76)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    441 mL
                                                                    353 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                    441 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    470 mL
   Urine:
                                                                  1,480 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,039 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.6 g/dL
   145 K/uL
   148 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   102 mEq/L
   141 mEq/L
   34.2 %
   11.4 K/uL
        [image002.jpg]
                             [**2160-9-12**]  02:55 PM
                             [**2160-9-13**]  03:49 AM
   WBC
   17.7
   11.4
   Hct
   37.5
   34.2
   Plt
   139
   145
   Cr
   0.9
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   154
   148
   Other labs: PT / PTT / INR:12.2/26.9/1.0, CK / CKMB /
   Troponin-T:90/4/<0.01, Differential-Neuts:86.9 %, Lymph:8.2 %, Mono:4.6
   %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   87 yom acute hypoxemic resp distress and Afib with RVRF after EGD
   RESPIRATORY DISTRESS -- multiple potential explainations and concerns,
   including CHF (due to ischemia, diastolic dysfunction or A-fib/ RVR),
   acute coronary syndrome, aspiration pneumonitis and pulmonary
   embolism.  Continue net diuresis, empirical antimicrobials.  Would
   check LE NIVS, Echo to assess RV function to assess for pulmonary
   embolism.  If LE NIVS negative, would move to CT angio.  If DVT,
   pulmonary embolism diagnosed, need to discuss options related to
   antigoagulation in setting of GI bleed.
   A-FIB -- experienced RVR, responded to diltiazem.  Continue diltiazem.
   Hold acute anticoagulation given GI bleed.
   GI BLEED --  esophagitis by EGD, continue PPI, cycle HCT maintain IVs -
   hold ASA Aggrenox.
   ANEMIA -- Decline in Hct may be due to GI bleed and iv repletion.
   Monitor serial Hct.
   ABD DISTENTION -- Abd CT unremarkable, attributed to constipation.
   Would check LFTs, amylase lipase.
   NUTRITIONAL SUPPORT -- NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-9-12**] 03:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2160-09-14 04:59:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 9586**] is a 87 year old gentleman with a PMH
   significant for afib with RVR, HTN, GERD, DM 2, CVA admitted on [**2160-9-11**]
   from [**Hospital1 747**] for orthostatic hypotension, dizziness and emesis
   24 Hour Events:
   LENIs wet read negative, given continuing question etiology hypoxia,
   CTA planned, pt given mucomyst, bicarb. CTA showed.
   Could this be early PHTN -wouldn't show CXR changes yet, but problem
   with pulmonary vasculature ---hypoxia.
   Lasix given 20mg IV in am, +10cc by 6pm, second dose given at 6pm with
   close monitoring.
   Repeat CXR showed stable LLL pleural effusion, no new focal
   consolidation/pulmonary vascular markings.
   Continued vanc/[**Doctor Last Name **]/cefepime?
   f/u echo read
   Blood Cx x2 neg,urine cx neg x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-13**] 09:17 PM
   Cefipime - [**2160-9-13**] 10:51 PM
   Metronidazole - [**2160-9-14**] 12:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-9-13**] 08:00 AM
   Pantoprazole (Protonix) - [**2160-9-13**] 07:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-14**] 04:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 93 (75 - 100) bpm
   BP: 105/53(65) {94/41(56) - 117/60(71)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,368 mL
                                                                    389 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                  1,958 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    330 mL
   Urine:
                                                                  1,380 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    988 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   11.9 g/dL
   185 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   19 mg/dL
   102 mEq/L
   141 mEq/L
   34.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2160-9-12**]  02:55 PM
                             [**2160-9-13**]  03:49 AM
                             [**2160-9-13**]  01:38 PM
                             [**2160-9-13**]  08:53 PM
                             [**2160-9-14**]  03:06 AM
   WBC
   17.7
   11.4
   9.6
   Hct
   37.5
   34.2
   34.7
   34.1
   34.8
   Plt
   139
   145
   146
   Cr
   0.9
   1.1
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   154
   148
   185
   Other labs: PT / PTT / INR:13.8/27.2/1.2, CK / CKMB /
   Troponin-T:75/4/<0.01, ALT / AST:15/15, Alk Phos / T Bili:73/0.6,
   Differential-Neuts:86.9 %, Lymph:8.2 %, Mono:4.6 %, Eos:0.2 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:137 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: No evidence for PE or acute aortic syndrome. There are small,
   right greater than left pleural effusions with associated atelectasis.
   There is no focal consolidation. There is no pulmonary nodule or mass
   identified. Airways are patent with no endobronchial lesions. Mild
   centrilobular emphysema is redemonstrated, most prominent in the
   apices.
    No evidence of right or left lower extremity DVT.
   CXR of 22/09 read
   Left pleural effusion is again noted, and there is calcification of the
   mitral
   valve. New focal consolidation and the pulmonary vascular markings and
   cardiac silhouette remain within normal limits.
   IMPRESSION:
   No significant interval change versus prior with stable left effusion.
   Microbiology: Sputum culture contaminated by oral secretions.
   Urine Cx no growth.
   No blood cx were ever taken
   pending MRSA screen
   Assessment and Plan
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CONSTIPATION (OBSTIPATION, FOS)
 DIABETES MELLITUS (DM), TYPE I
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Mr. [**Known lastname 9586**] is a 87 year old gentleman with a PMH significant for afib
   with RVR, HTN, GERD, DM 2, CVA admitted on [**2160-9-11**] from [**Hospital1 747**] for
   orthostatic hypotension, dizziness and emesis, likely source is GIB
   subsequently developed afib with rvr, dyspnea and relative hypotension
   and was transferred to the MICU.
   .
   # Hypoxia: Patient with new O2 requirement with ABG 7.42/47/75 on 6L nc
   and 40% shovel mask.  Differential for hypoxia with A-A gradient
   includes volume overload/pulmonary edema in setting of afib with RVR,
   dCHF, ACS, or aspiration pneumonitis versus pneumonia (diffusion), V/Q
   mismatch in setting of increased abdominal distention, and shunt from
   PE.  CXR with some cephalization although without excessive pulmonary
   edema. Patient was diuresed with improvement of oxygen status. He was
   also rate contolled. Pro-BNP was acutely elevated suggesting stretch
   and fluid overload.
   -Rule out ACS with serial cardiac biomarkers and repeat ECG - thus far
   negative
   -Repeat TTE
   -Repeat CXR
   -HR control with diltiazem PO and IV prn, goal HR 80-100
   -d/c antibiotics, CXR not impressive for pna
   -Can consider NPPV if necessary. Patient is DNR/DNI.
   - LENI
   - Possible CTA for PE
 pretreat as necessary
   .
   # Hematemesis: Likely secondary to erosive esophagitis. Hct currently
   stable, although stools have been OB brown positive.
   - Hct Q12H, transfuse for hct <21, active hemorrhage, or end organ
   damage.
   - Maintain active T+S
   - Continue PPI [**Hospital1 7**]
   - Follow-up GI recs if any.
   - nausea treatment
   .
   # Atrial fibrillation: Patient with history of AF that converted to
   sinus sponatenously in [**9-30**].  Currently with new afib with RVR
   -Rate control with diltiazem
   .
   # CV: TTE in [**7-1**] with LVEF<55% with LVH and dCHF.  Patient currently
   without chest pain.
   - Rule out ACS as above
   - Continue simvastatin
   - Hold aggrenox given GIB
   - Check BNP
   .
   # CVA: Hold aggrenox given GIB.
   .
   # Abdominal Distention: Initially concerning for SBO, although CTAP
   negative. Patient was also evaluated by surgery in the ED with low
   suspicion for SBO.
   - Aggressive bowel regimen
   .
   # Leukocytosis: WBCs 16.7 with left shift. Differential includes
   reactive leukocytosis in setting of GIB versus or aspiration event.
   - Trend fever curve and WBC.
   - Antimicrobial therapy as above.
   .
   # DM 2: Continue ISS, hold metformin while inpatient.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-9-12**] 03:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   Assessment:
   Received the pt on 4lit NCO2,Sating 89-93%.LS clear with fine crackles
   at the base.
   Action:
   Increased o2 to 5lit NC.CT chest with contrast  done.IV Abx as
   prescribed
   Response:
   Sats 90-93%.CT neg for PE.
   Plan:
   Cont to tx empirically for PNA, follow WBC, labs, clinical s/s,
   Constipation (Obstipation, FOS)
   Assessment:
   No BM this shift, BS pos.
   Action:
   Bowel regimen.
   Response:
   No BM.
   Plan:
   Admin PRN bowel meds, suppository if constipation persists.
   Gastrointestinal bleed, other (GI Bleed, GIB)
   Assessment:
   Hct this pm 34.1
   Action:
   [**Hospital1 7**] Hct.  Cont PPI.
   Response:
   Hct this am
   Plan:
   Follow H/H, NBPs, HR, cont PPIs.
   Atrial fibrillation (Afib)
   Assessment:
   Pt remains in Afib, HR 77-100.  NBPs stable.
   Action:
   Admin diltiazem PO.
   Response:
   Pt remains in rate controlled Afib, no ectopy.
   Plan:
   Cont PO mgt.
   87 yr old gentleman with hx of Afib, HTN,GERD, DM2, CVA admitted
   yesterday from [**Hospital1 747**] with orthostatic hypotension, dizziness, nausea and
   emesis. UGIB discovered but did not have sig HCT drop and not
   transfused. Also noted to have sig abd distension requiring
   disimpaction.  Had EGD today with erosive esophagitis but no active
   bleeding. Post EGD triggered for increasing 02 requirement from 2
   liters pre EGD to 4L + shovel and new afib with RVR at 120-140s.  ABG
   7.42/47/75.  Rx 10 IV Dilt 60 po DIlt 20 IV lasix and tx to MICU for
   potential NIPPV.
   Respiratory failure, acute (not ARDS/[**Doctor Last Name 11**])
   Assessment:
   Received pt 5 L NC for Sp02 >90% when sleeping.  LS clear, slight R
   side wheeze, dim at bases.  T max 99.3.
   Action:
   Wean to 3 L NC, admin ABX for poss asp PNA, TCDB, incentive
   spirometry.  Sputum sample sent.  US neg for PE, LENIs neg.
   Response:
   WBC decreasing this AM to 11.4.  Trop WNL.
   Plan:
   Cont to tx empirically for PNA, follow WBC, labs, clinical s/s,
   Constipation (Obstipation, FOS)
   Assessment:
   BS present but hypoactive, no BM today.  Pt denies nausea, good
   appetite for breakfast, not much appetite for lunch.
   Action:
   Bowel regimen, prune juice w/ meals.
   Response:
   No BM.
   Plan:
   Admin PRN bowel meds, suppository if constipation persists.
   Gastrointestinal bleed, other (GI Bleed, GIB)
   Assessment:
   EGD performed yesterday pos for gastritis.  Hct this AM 34.2.
   Action:
   [**Hospital1 7**] Hct.  Cont PPI.
   Response:
   Hct this afternoon 34.7.
   Plan:
   Follow H/H, NBPs, HR, cont PPIs.
   Atrial fibrillation (Afib)
   Assessment:
   Pt remains in Afib, HR 77-100.  NBPs stable.
   Action:
   Admin diltiazem PO.
   Response:
   Pt remains in rate controlled Afib, no ectopy.
   Plan:
   Cont PO mgt.
   RESPIRATORY DISTRESS -- multiple potential explainations and concerns,
   including CHF (due to ischemia, diastolic dysfunction or A-fib/ RVR),
   acute coronary syndrome, aspiration pneumonitis and pulmonary
   embolism.  Continue net diuresis, empirical antimicrobials.  Would
   check LE NIVS, Echo to assess RV function to assess for pulmonary
   embolism.  If LE NIVS negative, would move to CT angio.  If DVT,
   pulmonary embolism diagnosed, need to discuss options related to
   antigoagulation in setting of GI bleed.
   A-FIB -- experienced RVR, responded to diltiazem.  Continue diltiazem.
   Hold acute anticoagulation given GI bleed.
   GI BLEED --  esophagitis by EGD, continue PPI, cycle HCT maintain IVs -
   hold ASA Aggrenox.
   ANEMIA -- Decline in Hct may be due to GI bleed and iv repletion.
   Monitor serial Hct.
   ABD DISTENTION -- Abd CT unremarkable, attributed to constipation.
   Would check LFTs, amylase lipase.
   NUTRITIONAL SUPPORT -- NPO

2160-09-14 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   LENIs wet read negative, given continuing question etiology hypoxia,
   CTA planned, pt given mucomyst, bicarb. CTA no evidence PE.
   Lasix given 20mg IV in am, +10cc by 6pm, second dose given at 6pm with
   little effect, no further lasix given contrast load.
   Repeat CXR showed stable LLL pleural effusion, no new focal
   consolidation/pulmonary vascular markings.
   Echo performed, shows borderline PA HTN, dilated LA, normal systolic
   function.
   Blood Cx x2 neg,urine cx neg x2, sputum contam with oral secretions.
   Consider dc abx (vanc, cefepime, flagyl).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-13**] 09:17 PM
   Cefipime - [**2160-9-13**] 10:51 PM
   Metronidazole - [**2160-9-14**] 12:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-9-13**] 08:00 AM
   Pantoprazole (Protonix) - [**2160-9-13**] 07:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-14**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 86 (75 - 100) bpm
   BP: 100/59(70) {94/41(56) - 117/60(71)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,368 mL
                                                                    417 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                  1,958 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    450 mL
   Urine:
                                                                  1,380 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    988 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Cardiovascular: Comfortable, A/Ox3.  Reports no pain, breathing
   improved subjectively.
   HR irregularly irregular, no MRG
   Breathing comfortably, with coarse rales bilaterally, E>I
   Abdomen mildly tender to palpation, though improved per patient.
   Distended, but non-tympanitic
   No LE edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   11.9 g/dL
   185 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   19 mg/dL
   102 mEq/L
   141 mEq/L
   34.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2160-9-12**]  02:55 PM
                             [**2160-9-13**]  03:49 AM
                             [**2160-9-13**]  01:38 PM
                             [**2160-9-13**]  08:53 PM
                             [**2160-9-14**]  03:06 AM
   WBC
   17.7
   11.4
   9.6
   Hct
   37.5
   34.2
   34.7
   34.1
   34.8
   Plt
   139
   145
   146
   Cr
   0.9
   1.1
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   154
   148
   185
   Other labs: PT / PTT / INR:13.8/27.2/1.2, CK / CKMB /
   Troponin-T:75/4/<0.01, ALT / AST:15/15, Alk Phos / T Bili:73/0.6,
   Differential-Neuts:86.9 %, Lymph:8.2 %, Mono:4.6 %, Eos:0.2 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:137 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CONSTIPATION (OBSTIPATION, FOS)
 DIABETES MELLITUS (DM), TYPE I
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Mr. [**Known lastname 9586**] is a 87 year old gentleman with a PMH significant for afib
   with RVR, HTN, GERD, DM 2, CVA admitted on [**2160-9-11**] from [**Hospital1 747**] for
   orthostatic hypotension, dizziness and emesis, likely source is GIB
   subsequently developed afib with rvr, dyspnea and relative hypotension
   and was transferred to the MICU.
   .
   # Hypoxia: Respiratory status improving.  Differential for hypoxia with
   A-A gradient includes volume overload/pulmonary edema in setting of
   afib with RVR, dCHF, ACS, or aspiration pneumonitis versus pneumonia
   (diffusion), V/Q mismatch in setting of increased abdominal distention,
   and shunt from PE.  CXR with some cephalization although without
   excessive pulmonary edema. Patient was diuresed with improvement of
   oxygen status. He was also rate contolled. Pro-BNP was acutely elevated
   suggesting stretch and fluid overload.
   -echo performed
 normal systolic function, dilated LA, borderline PA
   HTN.
   -chest X-ray shows no significant change, possibly slightly improved
   overall congestion.
   -HR control with diltiazem PO and IV prn, goal HR 80-100
   -d/c antibiotics, CXR not impressive for pna, afebrile.
   -Can consider NPPV if necessary. Patient is DNR/DNI.
   -Diurese today
 goal negative 1 L.
   - LENI - negative.
   - CTA performed, negative.
   .
   # Hematemesis: Likely secondary to erosive esophagitis. Hct currently
   stable, although stools have been OB brown positive.
   - Hct Q12H, transfuse for hct <21, active hemorrhage, or end organ
   damage.
   - Maintain active T+S
   - Continue PPI [**Hospital1 7**]
   - Start sucralfate per GI recommendation.
   - nausea treatment PRN
   .
   # Atrial fibrillation: Patient with history of AF that converted to
   sinus sponatenously in [**9-30**].  Currently with new afib with RVR, HR has
   been well-controlled over past 24 hours.
   -Rate control with diltiazem
   .
   # CV: TTE in [**7-1**] with LVEF<55% with LVH and dCHF.  Patient currently
   without chest pain.
   -Echo yesterday ([**9-13**]) read still pending - will follow up.
   - Ruled out ACS
 negative cardiac enzymes.
   - Continue simvastatin
   - Hold aggrenox given GIB
   - Check BNP
   .
   # Abdominal Distention: Initially concerning for SBO, CTAP negative.
   Patient was also evaluated by surgery in the ED with low suspicion for
   SBO.
   - Continue bowel regimen, advance diet slowly
   .
    # Question of infection - leukocytosis resolved, afebrile.  Low
   likelihood of current infection.
   -following cultures - sputum culture contaminated, urine cx negative.
   - Trend fever curve and WBC.
   - antibiotics discontinued.
   .
   # DM 2: Continue ISS, hold metformin for now, re-start tomorrow if
   tolerating diet.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2160-9-12**] 03:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2160-09-14 10:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Oxygen requirement slightly increased today to 4 L, but pt. states to
   feel much improved.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-13**] 09:17 PM
   Cefipime - [**2160-9-13**] 10:51 PM
   Metronidazole - [**2160-9-14**] 12:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-9-13**] 07:46 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-9-14**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.1
   HR: 94 (75 - 100) bpm
   BP: 120/63(76) {94/31(54) - 134/63(76)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,368 mL
                                                                    627 mL
   PO:
                                                                    410 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,958 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    530 mL
   Urine:
                                                                  1,380 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    988 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 0x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   146 K/uL
   185 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   19 mg/dL
   102 mEq/L
   141 mEq/L
   34.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2160-9-12**]  02:55 PM
                             [**2160-9-13**]  03:49 AM
                             [**2160-9-13**]  01:38 PM
                             [**2160-9-13**]  08:53 PM
                             [**2160-9-14**]  03:06 AM
   WBC
   17.7
   11.4
   9.6
   Hct
   37.5
   34.2
   34.7
   34.1
   34.8
   Plt
   139
   145
   146
   Cr
   0.9
   1.1
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   154
   148
   185
   Other labs: PT / PTT / INR:13.8/27.2/1.2, CK / CKMB /
   Troponin-T:75/4/<0.01, ALT / AST:15/15, Alk Phos / T Bili:73/0.6,
   Differential-Neuts:86.9 %, Lymph:8.2 %, Mono:4.6 %, Eos:0.2 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:137 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   87 yom acute hypoxemic resp distress and Afib with RVRF after EGD
   RESPIRATORY DISTRESS -- multiple potential explainations and concerns,
   including CHF (due to ischemia, diastolic dysfunction or A-fib/ RVR),
   acute coronary syndrome, aspiration pneumonitis.  No evidence for
   pulmonary embolism.  Attributed to pulmonary edema/CHF.  Continue net
   diuresis.
   A-FIB -- experienced RVR, responded to diltiazem.  Continue diltiazem.
   Hold acute anticoagulation given GI bleed.
   GI BLEED --  esophagitis by EGD, continue PPI, cycle Hct maintain IVs -
   hold ASA Aggrenox.
   ANEMIA -- Decline in Hct may be due to GI bleed and iv repletion.
   Monitor serial Hct.
   FLUIDS
 desire net negative, aim for 1000 ml net negative.  Monitor
   I/O.
   RENAL FUNCTION
 preserved.  Tolerated contrast dye studies.  Monitor
   UO, BUN, creat.
   ABD DISTENTION -- Abd CT unremarkable, attributed to constipation.
   Would check LFTs, amylase lipase.  Bowel regimen.
   NUTRITIONAL SUPPORT -- Resume diet, advance as tolerated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-9-12**] 03:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes